US09084794B2
e) Methyl 2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(2-fluoro-4-(quinolin-7-yl)phenyl)acetate
A solution of methyl 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetate (2.53 mmol) in 1,4-dioxane (8 mL) was treated with 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline (2.78 mmol), PdCl2(dppf)-CH2Cl2 adduct (0.126 mmol), and 2M aq potassium carbonate (7.58 mmol). The reaction vessel was purged with nitrogen and sealed, and the mixture irradiated in a Biotage Initiator Microwave at 120° C. for 15 min. The resulting black mixture was diluted with water (100 mL) and brine (20 mL) and was extracted three times with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. Purification of the residue by silica gel chromatography (0-5% methanol/dichloromethane) afforded the desired product, which was dissolved with dichloromethane and concentrated in vacuo three times to afford the title compound as a brown gel (1.21 grams, 81% yield). MS(ES)+ m/e 504.1 [M+H]+.

reactant | methyl 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetate | 2.53 mmol | BrC1=CC(=C(C=C1)C(C(=O)OC)N1CCC2(CN(C(CO2)=O)C2CC2)CC1)F | C20H24BrFN2O4
reactant | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline | 2.78 mmol | CC1(OB(OC1(C)C)C1=CC=C2C=CC=NC2=C1)C | C15H18BNO2
reactant | potassium carbonate | 7.58 mmol, 2M | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.126 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | Methyl 2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(2-fluoro-4-(quinolin-7-yl)phenyl)acetate | C1(CC1)N1C(COC2(C1)CCN(CC2)C(C(=O)OC)C2=C(C=C(C=C2)C2=CC=C1C=CC=NC1=C2)F)=O | C29H30FN3O4
